US06255496B1
4-[4-Methoxyphenyl]-1,1,1-trifluoro-2-butanone
To a solution of 3-[4-methoxyphenyl]propionic acid (40.0 g, 0.222 mol) in dichloromethane (300 ml) at 22° C. was added slowly oxalyl chloride (29 ml, 0.333 mol). After stirring for 2.5 h, the solvent and excess reagent were removed in vacuo. The residue was dissolved in dichloromethane (300 ml), and was then added to a solution of trifluoroacetic anhydride (294 ml, 0.666 mol) in dichloromethane (300 ml) at 0° C. (ice bath). Pyridine (36 ml, 0.444 mol) was then added dropwise at 0° C., and the reaction mixture was stirred for 0.5 h at which time the cooling bath was removed. After stirring at 22° C. for 3 h, the reaction was cooled again to 0° C. and quenched with distilled water (100 ml). The mixture was stirred at 22° C. for 1 h, neutralized with solid sodium bicarbonate, diluted with dichloromethane (1 L), washed with sat. aq. sodium bicarbonate (300 ml), brine (300 ml), dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by bulb-to-bulb distilation (96-98° C., 0.2 mmHg) to afford the title compound (43.5 g, 84%) as a yellow liquid.

reactant | 3-[4-methoxyphenyl]propionic acid | 0.222 mol, 40.0 g | COC1=CC=C(C=C1)CCC(=O)O | C10H12O3
reactant | oxalyl chloride | 0.333 mol, 29 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trifluoroacetic anhydride | 0.666 mol, 294 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Pyridine | 0.444 mol, 36 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-[4-Methoxyphenyl]-1,1,1-trifluoro-2-butanone | 43.5 g, 84% | COC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C11H11F3O2
